US08008342B2
(x) (1R,2R)/(1S,2S)-2-(3-Ketopyrrolidinyl)-1-(2,2-diphenylethoxy)cyclohexane monohydrochloride
A mixture of (1R,2R)/(1S,2S)-2-(1,4-dioxa-7-azaspiro[4.4]non-7-yl)-1-(2,2-diphenylethoxy)cyclohexane (1.55 g, 3.8 mmol) in 6M HCl-butanone (1:4, v/v, 50 mL) was refluxed for 2 hours. The butanone was evaporated in vacuo and the residue was taken up with water (50 mL). The aqueous solution was extracted with diethyl ether (2×50 mL); the aqueous layer was collected and extracted with dichloromethane (2×50 mL). The combined dichloromethane extracts were dried over sodium sulfate and concentrated in vacuo to yield the crude title compound. The product was crystallized by triturating in diethyl ether and reprecipitated from a mixture of dichloromethane-diethyl ether to yield 1.21 g (80% yield) of the title compound, having the elemental analysis indicated in Table 1.

reactant | (1S,2S)-2-(1,4-dioxa-7-azaspiro[4.4]non-7-yl)-1-(2,2-diphenylethoxy)cyclohexane | 3.8 mmol, 1.55 g | O1CCOC12CN(CC2)[C@@H]2[C@H](CCCC2)OCC(C2=CC=CC=C2)C2=CC=CC=C2 | C26H33NO3
reactant | HCl butanone | 6M, 50 mL | Cl.CC(CC)=O
product | (1S,2S)-2-(3-Ketopyrrolidinyl)-1-(2,2-diphenylethoxy)cyclohexane monohydrochloride | 1.21 g, 80% yield | Cl.O=C1CN(CC1)[C@@H]1[C@H](CCCC1)OCC(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C24H29NO2.ClH/c26-21-15-16-25(17-21)23-13-7-8-14-24(23)27-18-22(19-9-3-1-4-10-19)20-11-5-2-6-12-20;/h1-6,9-12,22-24H,7-8,13-18H2;1H/t23-,24-;/m0./s1
